US05463081
27.3 g of 2-iodo-3-methoxycarbonylbenzenesulfonamide and 9.0 ml of n-butyl isocyanate in 300 ml of absolute acetone are treated with 12 ml of DBU at room temperature and heated at the boil for 3 hours. The reaction solution is cooled to room temperature, concentrated to approximately 1/3 of its volume and poured into 1 l of water. The aqueous phase is acidified with concentrated hydrochloric acid to a pH of 1-2, and the precipitate obtained is filtered off with suction. 31.3 g of methyl 2-iodo-[[[(n-butylamino)carbonyl]amino]sulfonyl]benzoate of melting point 163°-7° C. are obtained.

reactant | 2-iodo-3-methoxycarbonylbenzenesulfonamide | 27.3 g | IC1=C(C=CC=C1C(=O)OC)S(=O)(=O)N | C8H8INO4S
reactant | n-butyl isocyanate | 9.0 ml | C(CCC)N=C=O | C5H9NO
reactant | DBU | 12 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | methyl 2-iodo-[[[(n-butylamino)carbonyl]amino]sulfonyl]benzoate | 31.3 g | IC1=C(C(=O)OC)C=CC=C1S(=O)(=O)NC(=O)NCCCC | C13H17IN2O5S
